US08754079B2
207.4 4-[2-(trans-4-methoxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to 1.4 from 0.005 g 4-[2-(trans-4-methoxy-cyclohexyloxy)pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and ammonia (0.5 M in THF) in DMF using TBTU instead of HATU.

reactant | 4-[2-(trans-4-methoxy-cyclohexyloxy)pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.005 g | CO[C@@H]1CC[C@H](CC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C20H22N4O4S
reactant | ammonia | 0.5 M | N | H3N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[2-(trans-4-methoxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | CO[C@@H]1CC[C@H](CC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C20H23N5O3S
